US05910491
20-Deoxy camptothecin
Camptothecin (500 mg, 1.44 mmol) was suspended in 1,4-dioxane (10 mL) and added Lawsson's reagent (290.5 mg, 0.72 mmol). The reaction mixture was then heated to 90° C. for 10 hours under an inert atmosphere. The resultant homogeneous reaction mixture was then concentrated, organic portion was taken up in chloroform (25 mL) and the aqueous fraction was repeatedly extracted with chloroform (25 mL×3). The combined organic portion was then concentrated to get the title compound in the crude form. The crude product was then flash chromatographed over a bed of florisil using 10% chloroform in methanol to furnish the desired product in 40% yield in diastereomeric mixture.

reactant | Camptothecin | 1.44 mmol, 500 mg | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC=4C=C5C=CC=CC5=NC4C3=C2)O | C20H16N2O4
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 20-Deoxy camptothecin | CC[C@@H]1C2=C(COC1=O)C(=O)N3CC4=CC5=CC=CC=C5N=C4C3=C2 | C20H16N2O3
